US05972975
By analogy to Example 56, Step B, 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(2-phenylethyl)pyridine was treated with 4.6 equivalents of hydroxylamine hydrochloride and 2.8 equivalents of potassium hydroxide in refluxing ethanol/water to yield 2-amino-4-methyl-6-(2-phenylethyl)pyridine as a colorless oil.

reactant | 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(2-phenylethyl)pyridine | CC1=CC(=NC(=C1)CCC1=CC=CC=C1)N1C(=CC=C1C)C | C20H22N2
reactant | hydroxylamine hydrochloride | 4.6 equivalents | Cl.NO
reactant | potassium hydroxide | 2.8 equivalents | [OH-].[K+]
solvent | ethanol water | C(C)O.O
product | 2-amino-4-methyl-6-(2-phenylethyl)pyridine | NC1=NC(=CC(=C1)C)CCC1=CC=CC=C1 | C14H16N2
